Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Bactrim
 
Attending: ___.
 
Chief Complaint:
shortness of breath and chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram on ___

 
History of Present Illness:
Ms ___ is a previously healthy ___ yo woman who
presented to ___ as a transfer from ___ for a 1 day
history of substernal chest pain. She currently lives in ___,
and she and her husband were in the area visiting family for
vacation. She reported that 2 days ago she was on a ___ watch 
and
started to feel nauseated, attributing it to sea sickness. When
she got off the boat, she developed significant substernal chest
"heaviness". Associated with leg heaviness and subjective
dyspnea. She reported she felt "like she couldn't breathe".
Associated with some lightheadedness, but denied syncope. Denied
any jaw pain or shoulder pain. Denied any emesis or diaphoresis.
She took ibuprofen for the pain without much effect. She also
drank a lot of water, thinking she was possibly dehydrated. She
also later noticed a "cramping pain" in her right hand. Her
symptoms continued with only slight improvement, so
she presented to ___. At ___ she was found to have 
an
elevated troponin of 1.2, D-dimer of 2.1. She was started on IV
heparin. She underwent CTA which did not reveal any pulmonary
embolism. She was transferred to ___ for further evaluation 
and
management.

On arrival to ___, she endorsed chest tightness without frank
chest pain. States her symptoms were at their worst on night
prior to presentation. Denies fever, chills, nausea. She 
endorses
some orthopnea, stating her breathing feels better while sitting
up.

 
Past Medical History:
None
 
Social History:
___
Family History:
Father with multiple CVAs, first was in his ___. Family history
of T2DM. Aunt with breast cancer and pancreatic cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: Temp: 98.8 PO BP: 99/65 L Lying HR: 58 RR: 16 O2 sat:
100% O2 delivery: Ra 
GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
NECK: JVP not elevated above the clavicle while at 45 degrees.
CARDIAC: Normal rate and rhythm. Audible S1 and S2. No murmurs,
rubs, or gallops.
LUNGS: Decreased breath sounds at the bases bilaterally, but
otherwise clear to auscultation bilaterally without wheezes,
rhonchi or rales. No increased work of breathing.
ABDOMEN: Soft, nontender, nondistended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
edema. Pulses DP/Radial 2+ bilaterally.
NEUROLOGIC: AAOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
=======================
T 98.4 BP 84/56 HR 61 RR 16 SpO2 98% RA  
GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
NECK: JVP 7.
CARDIAC: Normal rate and rhythm. Audible S1 and S2. No murmurs,
rubs, or gallops.
LUNGS: Decreased breath sounds at the bases bilaterally, but
otherwise clear to auscultation bilaterally without wheezes,
rhonchi or rales. No increased work of breathing.
ABDOMEN: Soft, nontender, nondistended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
edema. Pulses DP/Radial 2+ bilaterally.
NEUROLOGIC: AAOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:30PM   GLUCOSE-94 UREA N-11 CREAT-0.6 SODIUM-128* 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-20* ANION GAP-9*
___ 07:30PM   ALT(SGPT)-62* AST(SGOT)-168* CK(CPK)-1109* 
ALK PHOS-46 TOT BILI-0.7
___ 07:30PM   LIPASE-32
___ 07:30PM   cTropnT-2.10*
___ 07:30PM   CK-MB-182* MB INDX-16.4* proBNP-339*
___ 07:30PM   ALBUMIN-3.7 CALCIUM-7.9* PHOSPHATE-3.2 
MAGNESIUM-1.8 CHOLEST-193
___ 07:30PM   TRIGLYCER-57 HDL CHOL-56 CHOL/HDL-3.4 
LDL(CALC)-126
___ 07:30PM   TSH-1.0
___ 07:30PM   CRP-0.9
___ 07:30PM   WBC-11.8* RBC-3.81* HGB-12.1 HCT-34.9 MCV-92 
MCH-31.8 MCHC-34.7 RDW-12.8 RDWSD-42.8
___ 07:30PM   ___ PTT-120.6* ___

TTE ___:
IMPRESSION: Mild-moderate mitral regurgitation with normal valve 
morphology. Normal left
ventricular wall thickness and biventricular cavity sizes and 
regional/global biventricular systolic
function.

Coronary angiogram ___:
No angiographically apparent coronary artery disease.

DISCHARGE LABS
==============
___ 07:25AM BLOOD WBC-5.1 RBC-3.51* Hgb-10.9* Hct-33.6* 
MCV-96 MCH-31.1 MCHC-32.4 RDW-13.2 RDWSD-46.4* Plt ___
___ 07:25AM BLOOD Glucose-76 UreaN-11 Creat-0.6 Na-140 
K-4.1 Cl-111* HCO3-20* AnGap-9*
___ 07:25AM BLOOD ALT-42* AST-79* LD(LDH)-438* AlkPhos-38 
TotBili-0.5
___ 07:25AM BLOOD Calcium-8.2* Phos-3.2 Mg-1.9

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
===================
[ ] may consider f/u cardiac MRI to evaluate more fully any 
degree of myocardial inflammation, although myocarditis lower on 
the differential.
[ ] please repeat LFTS in 1 week (___) in the setting of a 
mild transaminitis.
[ ] consider work up of transaminitis such as Hepatitis 
serologies

- FYI: A1C 4.6%
- New Meds: atorvastatin, nitroglycerin SL 
- Stopped/Held Meds: none 
- Follow-up appointments: self-scheduled (cardiology, PCP)
- Post-Discharge Follow-up Labs Needed: none 
- Incidental Findings: none
- Discharge creatinine: 0.6

Code Status: Full code, presumed
Contact: ___ (husband) ___

BRIEF SUMMARY
=============
Ms ___ is a previously healthy ___ year old woman, with 
no medical history of note, who presented to ___ as a transfer 
from ___ for a 1 day history of shortness of breath and 
substernal chest pain. At OSH, CTA PE protocol was negative but 
given elevated troponin, she was transferred to ___. During 
her hospital stay, her troponins peaked to 3.82 before trending 
down. She underwent TTE and coronary angiogram, both of which 
were unremarkable for any ischemic etiology. It was determined 
that her likely chest pain etiology was coronary vasospasm. 
Blood pressure was low-normal so CCB treatment was deferred at 
time of discharge. She was discharged home with atorvastatin 
10mg given some evidence of less recurrence in small studies, 
and SL nitro to use PRN. On review, cor angio with slight long 
segment of smooth narrowing at ___ RCA that ___ be c/w spasm. 
Myocarditis less likely given no WMA on TTE, no prodrome or 
recent infx, to the acute onset CP of her presentation. 

ACUTE/ACTIVE ISSUES:
====================
#Coronary Vasospasm:
Patient presentation is unclear however DDx includes coronary 
spasm. In terms of possible NSTEMI, patient without any real 
known risk factors for ACS, no previous history of anginal 
symptoms, ___ score of 65. Prinzmetals angina with coronary 
vasospasm is most likely given that Coronary angiogram and TTE 
without significant findings.

#Hyponatremia
128 on admission. Likely hypovolemic hyponatremia with poor PO 
intake over past
24hrs, and excess free water intake. Corrected to 140 at 
discharge, with increased PO intake.

#Transaminitis
AST elevation confounded by possible cardiac injury. Continued 
to downtrend by time of discharge to 79/42. Can consider other 
etiologies of hepatitis, and consider work up as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Atorvastatin 10 mg PO DAILY 
RX *atorvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
Take no more than 3 tablets within a ___ minute span. 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually PRN Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
- Coronary vasospasm

SECONDARY DIAGNOSES
===================
- Hyponatremia (corrected)
- Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were 
experiencing shortness of breath and chest pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent a series of blood tests, which showed that you 
had inflammation of the heart
- You had an ultrasound of the heart (ECHO), and a cardiac 
catheterization, which is a procedure that helped the health 
care team determine if there were any blockages in the blood 
vessels of your heart.
- Your ECHO and cardiac catheterization were both normal. We 
suspect that one of your heart vessels spasmed. 
- You were started on a new medication called a statin which can 
help reduce spasms in the future.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
persistent shortness of breath at night. Please call your 
doctor, ___, at ___.   

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___